Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Respiridone toxicity
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old Male with 2 days of neck pain. The patient 
apparently developed hallucinations 2 months prior to admission. 
He was seen inthe ___ ED and ultimately admitted to ___ 
___ for 20 days of inpatient psychiatry. The patient was 
ultimately placed on rispiradone 10 days prior to discharge. He 
now presents with 2 days of neck pain and rigidity. Patient 
denies any trauma. No headaches, nausea/vomiting, fever or 
chills. Patient has limited ROM from pain of his neck. The 
patient was planned to follow up with ___ psychiatry NP over at 
___, but has not been able to schedule the appointment 
yet.

In the ___ ED his initial vitals were 98.5, 111, 135/90, 16, 
100% The patient underwent CT of the head and neck which were 
unrevealing. Labs were basically revealing as well.  Patient 
placed on IV fluids and given IV Benadryl and ativan
 
Past Medical History:
Recently diagnosed Psychotic disorder
 
Social History:
___
Family History:
Mother: healthy
Father: ___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VSS: 99.1, 137/86, 108, 18, 99%
GEN: NAD, very sedated
Pain: ___
HEENT: EOMI, MMM, - OP Lesions, neck stiff to passive ROM, 
reports pain on left gaze worse than right gaze
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CCE
NEURO: Somnolent, Non-Focal other than neck findings above, flat 
affect with 1 word answers, - cogwheeling

DISCHARGE PHYSICAL EXAM:
___ 0729 Temp: 98.0 PO BP: 121/83 HR: 85 RR: 18 O2 sat: 
100%
O2 delivery: RA 
GENERAL: Alert and in no apparent distress, somewhat slow to
respond to questions
EYES: Anicteric sclerae
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: no neck pain, moves all extremities slowly (improved from
admission), strength grossly full and symmetric bilaterally in
all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech slow
PSYCH: pleasant, flat affect
 
Pertinent Results:
ADMISSION LABS:
===========
___ 08:20PM BLOOD WBC-6.5 RBC-5.00 Hgb-13.6* Hct-42.5 
MCV-85 MCH-27.2 MCHC-32.0 RDW-13.4 RDWSD-41.1 Plt ___
___ 08:20PM BLOOD Neuts-70.7 ___ Monos-7.8 Eos-0.2* 
Baso-0.3 Im ___ AbsNeut-4.63 AbsLymp-1.36 AbsMono-0.51 
AbsEos-0.01* AbsBaso-0.02
___ 08:20PM BLOOD Glucose-129* UreaN-14 Creat-0.8 Na-139 
K-4.5 Cl-99 HCO3-26 AnGap-14
___ 08:20PM BLOOD ALT-19 AST-27 AlkPhos-65 TotBili-0.3
___ 08:20PM BLOOD Albumin-5.2
___ 08:20PM BLOOD Digoxin-<0.4*
___ 08:20PM BLOOD Phenoba-<3* Phenyto-<0.8* Lithium-<0.1* 
Valproa-<3*
___ 08:20PM BLOOD Carbamz-<2*
___ 10:23PM BLOOD O2 Sat-60 ___ MetHgb-1
___ 12:20AM URINE Color-Straw Appear-Clear Sp ___
___ 12:20AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:20AM URINE RBC-0 WBC-0 Bacteri-NONE Yeast-NONE Epi-0

MICROBIOLOGY:
===========
___ URINE CULTURE (Final ___:    < 10,000 CFU/mL.

IMAGING:
=======
CT HEAD W/O CONTRASTStudy Date of ___ 9:36 ___
FINDINGS:
There is no evidence of infarction, hemorrhage, edema, or mass.  
The
ventricles and sulci are normal in size and configuration.
 
There is no evidence of fracture.  The visualized portion of the 
paranasal
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized
portion of the orbits are unremarkable.

___ 9:18 ___ CT NECK W/CONTRAST (EG:PAROTID  
IMPRESSION:
1. No acute abnormality identified within the neck.
2. Several small hypodense thyroid nodules, largest measuring up 
to 6 mm.  No additional imaging follow-up is recommended per ACR 
criteria (please see recommendations section below).
 
RECOMMENDATION(S):  Thyroid nodule.  No follow up recommended.
Absent suspicious imaging features, unless there is additional 
clinical
concern, ___ College of Radiology guidelines do not 
recommend further evaluation for incidental thyroid nodules less 
than 1.0 cm in patients under age ___ or less than 1.5 cm in 
patients age ___ or ___.
 
Suspicious findings include: Abnormal lymph nodes (those 
displaying
enlargement, calcification, cystic components and/or increased 
enhancement) or
invasion of local tissues by the thyroid nodule.
 
___, et al, "Managing Incidental Thyroid Nodules Detected on 
Imaging: White
Paper of the ___ Incidental Findings Committee". J ___ 
___ ___
12:143-150.

Discharge labs
================
___ 07:10AM BLOOD WBC-5.6 RBC-4.49* Hgb-12.6* Hct-38.9* 
MCV-87 MCH-28.1 MCHC-32.4 RDW-13.2 RDWSD-41.3 Plt ___
___ 07:10AM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-95 UreaN-11 Creat-0.7 Na-141 
K-3.8 Cl-102 HCO3-25 AnGap-14
___ 08:39AM BLOOD ALT-19 AST-32 LD(LDH)-169 AlkPhos-65 
TotBili-0.5
___ 07:10AM BLOOD Calcium-9.5 Phos-4.6* Mg-2.0
___ 08:39AM BLOOD TSH-2.6
___ 08:39AM BLOOD T4-8.4 Free T4-1.5
___ 08:20PM BLOOD Digoxin-<0.4*
___ 08:20PM BLOOD Phenoba-<3* Phenyto-<0.8* Lithium-<0.1* 
Valproa-<3*
___ 08:20PM BLOOD Carbamz-<2*
 
Brief Hospital Course:
Mr. ___ is a ___ year old with h/o hallucinations, 
recently started on risperidone coming in with neck pain and 
stiffness with limited range of motion, attributed to likely 
risperidone toxicity vs catatonia

# Dystonia related to Risperidone
# ?Catatonia 
# Schizophrenia: 
Patient had slow writhing movements which could be in the 
setting of use of second generation antipsychotic (though less 
likely than first generation) such as risperidone. He was rigid 
and having tremors concerning for catatonia, scored 13 on ___ 
___ for staring, rigidity, negativism, waxy flexibility, 
muscle resistance,
autonomic abnormality. He had no evidence of QTc prolongtation 
or overt evidence of anticholinergic effects such as urinary 
retention. Risperidone was held. Patient received Benadryl and 
IV Ativan due to concern for catatonia. He was trialed on a PO 
lorazepam taper starting at 2mg TID with improvement in his 
symptoms (however was oversedated with TID dosing). This was 
tapered quickly and then off with reported improvement in 
symptoms. Neck pain resolved, though still had mild rigidity in 
his arms. Psychiatry evaluation on followup was not consistent 
with catatonia, some question of negative symptoms of psychotic 
disorder vs sedation from meds, however this was already after 
initiation of Ativan and holding risperidone. He was started on 
5 mg olanzapine QHS which he tolerated well. Regarding 
psychiatric care, staff attempted to coordinate an intake 
appointment with psychiatry at ___, however wait times were 
into the new year ___, so ___ was contacted on behalf of the 
patient. He declined a partial program. Transition of care 
discussed with primary provider ___ NP and he is 
arranging ___ to see patient at his followup appointment 
for further coordination.

# Thyroid nodules seen on CT
Based on radiology recommendations, no further followup needed

TRANSITIONAL ISSUES
=========================
[] Patient needs to coordinate psychiatric care. Attempted to 
coordinate as an inpatient at ___ but wait times were long, 
see above. ___ provided information for ___ and recommended 
patient call for intake appointment if unable to coordinate with 
PCP at ___ (wait times reportedly 1 month).
[] Monitor lipids, A1c on olanzapine
[] Risperidone added to allergy list for dystonia; psychiatry 
recommends antipsychotics in future with less D2 blocking 
activity (avoid Haldol)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE 3 mg PO BID 

 
Discharge Medications:
1.  OLANZapine 5 mg PO QHS 
RX *olanzapine 5 mg 1 tablet(s) by mouth at night Disp #*30 
Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Neck rigidity, possible catatonia 
Risperidone toxicity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to ___ due to having stiff neck and symptoms 
of rigidity. We suspect this was likely due to your medical 
condition and medications (risperidone).

You improved in the hospital and were discharged home.

Please follow up with your doctors and also ensure you take your 
new medicine, olanzapine.

Please talk to your doctor at ___ to see if you should go to 
Arbor for psychiatry care while waiting for an appointment at 
___.

It was a pleasure being part of your care
Your ___ team
 
Followup Instructions:
___